US06635657B1
A. 3-(2-Hydroxyethyl)oxazolidin-2-one
A mixture of diethanolamine (12.55 g), diethyl carbonate (16.2 mL), and sodium methoxide (80 mg) was heated to 130-140° C. for 1.5 h and distilled during the reaction using a Dean-Stark trap. The remaining liquid was concentrated in vacuo to give 15.11 g (97%) as a yellow oil.

reactant | diethanolamine | 12.55 g | N(CCO)CCO | C4H11NO2
reactant | diethyl carbonate | 16.2 mL | C(OCC)(OCC)=O | C5H10O3
reactant | sodium methoxide | 80 mg | C[O-].[Na+]
product | 3-(2-Hydroxyethyl)oxazolidin-2-one | OCCN1C(OCC1)=O | C5H9NO3
